US07544835B2
Dimethyl 2-(4-methoxy-3-{2-[(4-toluidinocarbonyl)oxy]ethyl}benzyl)malonate
Using dimethyl 2-[3-(2-hydroxyethyl)-4-methoxybenzyl]malonate and p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(2-hydroxyethyl)-4-methoxybenzyl]malonate | OCCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C15H20O6
reactant | p-tolylisocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
product | Dimethyl 2-(4-methoxy-3-{2-[(4-toluidinocarbonyl)oxy]ethyl}benzyl)malonate | COC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)CCOC(=O)NC1=CC=C(C=C1)C | C23H27NO7
